US07157219B2
N,N-Diethylcarbamoylmethyl-diphenylphosphine sulfide (PS-1).
A stirred mixture of diphenylphosphine sulfide (4.365 g, 0.02 mol) and N,N-diethylchloroacetamide (4.189 g, 0.028 mol) in methylene chloride (80 ml) was cooled to 8–10° C. in an ice-water bath. Small pieces of solid potassium hydroxide (3.927 g, 0.07 mol) were added while stirring under nitrogen atmosphere. After 30 minutes, water (25 ml) was added and the organic layer was separated, washed with more water (25 ml) and dried over sodium sulfate. The solvent was removed under reduced pressure using a rotary evaporator and the oily residue was crystallized from ethyl acetate-hexane mixture to give 3.5 g (53%) of large cubes. mp: 108–110° C.

reactant | diphenylphosphine sulfide | 0.02 mol, 4.365 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)=S | C12H11PS
reactant | N,N-diethylchloroacetamide | 0.028 mol, 4.189 g | C(C)N(C(CCl)=O)CC | C6H12ClNO
reactant | potassium hydroxide | 0.07 mol, 3.927 g | [OH-].[K+]
reactant | water | 25 ml | O | H2O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | N,N-Diethylcarbamoylmethyl-diphenylphosphine sulfide | C(C)N(C(=O)CP(C1=CC=CC=C1)(C1=CC=CC=C1)=S)CC | C18H22NOPS
